US05804410
50 μl of the solution of the trypsin-like protease obtained in Example 1 was added to 1.5 ml of 0.1M Tris-HCl buffer (pH 8.6) containing 100 μM of a synthetic substrate for trypsin Boc-Phe-Ser-Arg-MCA (MCA=methylcoumarinamide), and the mixture was subjected to incubation at 37° C. for 1 hour. 1 ml of 30% acetic acid was then added, the amount of 7-amino-4-methylcoumarin (AMC) formed was determined by fluorescent assay (fluorescence 440 nm, excitating light 380 nm), and the activity of the enzyme was calculated based thereon. An activity of forming 1 pM of AMC in 1 minute is defined as 1 unit (1 unit=1 pM AMC/min).

reactant | Tris-HCl | 0.1M, 1.5 ml, pH 8.6 | C(C(CO)(CO)N)O.Cl
reactant | Boc-Phe-Ser-Arg-MCA | CC1=CC(=O)OC2=C1C=CC(=C2)NC(=O)[C@H](CCCN=C(N)N)NC(=O)[C@H](CO)NC(=O)[C@H](CC3=CC=CC=C3)NC(=O)OC(C)(C)C | C33H43N7O8
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 7-amino-4-methylcoumarin | NC1=CC=C2C(=CC(OC2=C1)=O)C | C10H9NO2
